US08685970B2
Step 2) Preparation of 8-(chloromethyl)-2-(3-(trifluoromethyl)phenyl)quinoline
To a solution of (2-(3-(trifluoromethyl)phenyl)quinolin-8-yl)methanol (0.67 g, 2.2 mmol) in CH2Cl2 (20 ml) was added SOCl2 (0.32 ml, 4.4 mmol) dropwise at 0° C. The mixture was stirred at room temperature for 2 h, and then concentrated. The residue was purified by column chromatography (1:15 ethylacetate in pentane) to give the product as a white solid (0.668 g, 94% yield).

reactant | (2-(3-(trifluoromethyl)phenyl)quinolin-8-yl)methanol | 2.2 mmol, 0.67 g | FC(C=1C=C(C=CC1)C1=NC2=C(C=CC=C2C=C1)CO)(F)F | C17H12F3NO
reactant | SOCl2 | 4.4 mmol, 0.32 ml | O=S(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 8-(chloromethyl)-2-(3-(trifluoromethyl)phenyl)quinoline | 0.668 g, 94% yield | ClCC=1C=CC=C2C=CC(=NC12)C1=CC(=CC=C1)C(F)(F)F | C17H11ClF3N
